US06114555
b) Preparation of (2-trimethylsiloxy-ethyl)-cyclopentadiene
150 ml of a 2.3 M sodium cyclopentadienylide solution in tetrahydrofurane (346 mmol) is slowly added to a solution of 68.2 g (346 mmol) 2-trimethylsiloxy-1-bromo-ethane in tetrahydrofurane. The immediate formation of a pinkish solid is observed. The reaction is maintained under stirring for 12 hours. Then, an ammonium chloride aqueous solution is added. The organic phase is extracted, dried with magnesium sulphate and the volatile part is distilled under vacuum, obtaining an orange oil. This oil is distilled in order to obtain a colorless oil. (Tb.: 63-65° C., 0.02 bar (15 mmHg.)). (40.3 g, 221 mmol. Yield:64%). 1H-NMR (CDCl3): 6.50-6.00 (m,3H), 3.75 (m,2H), 2.95 (m,2H), 2.65 (m,2H), 0.15 (s,9H).

reactant | sodium cyclopentadienylide | 2.3 M | [CH-]1C=CC=C1.[Na+]
reactant | 2-trimethylsiloxy-1-bromo-ethane | 346 mmol, 68.2 g | C[Si](OCCBr)(C)C | C5H13BrOSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 346 mmol | O1CCCC1 | C4H8O
product | (2-trimethylsiloxy-ethyl)-cyclopentadiene | Yield:64% | C[Si](OCCC1=CC=CC1)(C)C | C10H18OSi
